US07405299B2
B. Preparation of 3-(2-Oxo-pyrrolidin-1-ylimino)-3-(pyridin-2-yl)-propionic acid ethyl ester
Place 1-aminopyrrolidin-2-one hydrochloride (Zubek, A. Z. Chem., 1969, 9(2), 58; 155.6 g, 1.14 mol) in a 3 L flask equipped with mechanical stirrer and nitrogen inlet. Add 3-oxo-3-pyridin-2-yl-propionic acid ethyl ester (200 g, 1.04 mol) then pyridine (400 mL). Stir the reaction mixture at room temperature for 20 h. Dilute the mixture with water (500 mL), and extract with toluene (2×500 mL). Combine the organic layers, dry (sodium sulfate), filter and concentrate in vacuo to yield the subtitled compound as a dark oil (280 g, 98%). MS ES+ m/e 276 (M+1).

reactant | 1-aminopyrrolidin-2-one hydrochloride | Cl.NN1C(CCC1)=O
reactant | 3-oxo-3-pyridin-2-yl-propionic acid ethyl ester | 1.04 mol, 200 g | C(C)OC(CC(C1=NC=CC=C1)=O)=O | C10H11NO3
reactant | pyridine | 400 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 500 mL | O | H2O
product | 3-(2-Oxo-pyrrolidin-1-ylimino)-3-(pyridin-2-yl)-propionic acid ethyl ester | 280 g, 98% | C(C)OC(CC(C1=NC=CC=C1)=NN1C(CCC1)=O)=O | C14H17N3O3
